US07985862B2
5-chloro-1-(5-chloro-2-sulfamoylbenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
2-Cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide (0.29 g), 2-(aminomethyl)-4-chlorobenzenesulfonamide hydrochloride (0.42 g) and potassium carbonate (0.52 g) were stirred in ethanol (10 ml) at 70° C. overnight. The reaction solution was filtered through celite. The solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=7:3→1:0). 4N Hydrochloride-ethyl acetate solution (1 ml) was added to the obtained yellow oil, and the precipitated crystals were collected by filtration, and recrystallized to give the title compound (30 mg).

reactant | 2-Cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | 0.29 g | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 2-(aminomethyl)-4-chlorobenzenesulfonamide hydrochloride | 0.42 g | Cl.NCC1=C(C=CC(=C1)Cl)S(=O)(=O)N
reactant | potassium carbonate | 0.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-chloro-1-(5-chloro-2-sulfamoylbenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | 30 mg | Cl.ClC=1C=C(C(N(C1)CC1=C(C=CC(=C1)Cl)S(N)(=O)=O)=N)C(=O)N | InChI=1S/C13H12Cl2N4O3S.ClH/c14-8-1-2-11(23(18,21)22)7(3-8)5-19-6-9(15)4-10(12(19)16)13(17)20;/h1-4,6,16H,5H2,(H2,17,20)(H2,18,21,22);1H
